*******************************************************************************
*****************************************************************
* NXP PSMN9R0-30YL
*
* Polarity N-Channel
* Ratings 30V/8.50E-03OHMS/15A
*
* Date Created Mon Aug 18 01:55:59 2008
* Modified M Agius / P Ellis Tue 26th Aug 2008
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R0-30YL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 600000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00432778082119717 TC=0.00476642747517083,4.45628940963531e-06
RBD 9 4 0.0017 TC=0.00476642747517083,4.45628940963531e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 700e-12
RG 1 2 0.576633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1080
+ -5	1075
+ -2	893
+ -1	621
+ -0.5	471
+ -0.2	390
+ -0.1	363
+ 0	339
+ 0.1	305
+ 0.2	278
+ 0.5	231
+ 1	198
+ 2	171
+ 5	142
+ 10	122
+ 12	117
+ 20	105
+ 30	99

.MODEL MINT NMOS(Vto=2.079 Kp=103 Nfs=48e+10 Eta=3000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 
+ U0=600 Vmax=1000)


.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=3.0e-13
+ N=1.0 M=0.65 VJ=0.5 Fc=0.5 Cjo=0.67e-09 Tt=1.1e-08)

.ENDS


*******************************************************************************
